US08859768B2
To a solution of N-{4-[5-bromo-4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,2,4-triazol-3-yl)-2-furyl]-5-methylpyridin-2-yl}acetamide (0.45 g, 0.91 mmol) in 1,4-dioxane (5 mL) was added water (1.2 mL), tetrakis(triphenylphosphine)palladium(0) (0.10 g, 0.091 mmol), (2-chloro-5-formylphenyl)boronic acid (0.22 g, 1.19 mmol) and cesium carbonate (0.89 g, 2.74 mmol). The mixture was allowed to stir and subjected to microwave irradiation at 150° C. for 20 min. The mixture was diluted with water and extracted with EtOAc. The organic solution was dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography to give N-{4-[5-(2-chloro-5-formylphenyl)-4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,2,4-triazol-3-yl)-2-furyl]-5-methylpyridin-2-yl}acetamide (0.42 g, 83%). LCMS (FA): m/z=552.6 (M+H).

reactant | N-{4-[5-bromo-4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,2,4-triazol-3-yl)-2-furyl]-5-methylpyridin-2-yl}acetamide | 0.91 mmol, 0.45 g | BrC1=C(C=C(O1)C1=CC(=NC=C1C)NC(C)=O)C1=NN(C=N1)COCC[Si](C)(C)C | C20H26BrN5O3Si
reactant | (2-chloro-5-formylphenyl)boronic acid | 1.19 mmol, 0.22 g | ClC1=C(C=C(C=C1)C=O)B(O)O | C7H6BClO3
reactant | cesium carbonate | 2.74 mmol, 0.89 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.091 mmol, 0.10 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 1.2 mL | O | H2O
product | N-{4-[5-(2-chloro-5-formylphenyl)-4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,2,4-triazol-3-yl)-2-furyl]-5-methylpyridin-2-yl}acetamide | 0.42 g, 83% | ClC1=C(C=C(C=C1)C=O)C1=C(C=C(O1)C1=CC(=NC=C1C)NC(C)=O)C1=NN(C=N1)COCC[Si](C)(C)C | C27H30ClN5O4Si
